US07989460B2
A mixture of 4-chloro-7-(2-chloroethoxy)-6-methoxyquinazoline (5.0 g), prepared as described in Example 7, 2,3-dimethyl-5-hydroxyindole (3.5 g), (Arch. Pharm. 1972, 305, 159), and potassium carbonate (4.0 g) in DMF (70 ml) was stirred and heated at 90° C. for 3 hours. The mixture was filtrated and the solvent was removed by evaporation under vacuum. The residue was purified by column chromatography on silica using the solvent mixture dichloromethane/ethyl acetate/methanol (50/48/2). The solvent was evaporated under vacuum to give 7-(2-chloroethoxy)-4-[(2,3-dimethyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline (4.9 g) as a beige solid.

reactant | 4-chloro-7-(2-chloroethoxy)-6-methoxyquinazoline | 5.0 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCl | C11H10Cl2N2O2
reactant | 2,3-dimethyl-5-hydroxyindole | 3.5 g | CC=1NC2=CC=C(C=C2C1C)O | C10H11NO
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 7-(2-chloroethoxy)-4-[(2,3-dimethyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline | 4.9 g | ClCCOC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C(=C(NC2=CC1)C)C)OC | C21H20ClN3O3
